US07572809B2
The mixture of (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (100 mg), phenylboronic acid (84 mg), Na2CO3 (145 mg), Tetrakis(triphenyl-phosphine)palladium(0) (40 mg), N,N-dimethylformamide (DMF) (1 ml) and water (1 ml) was heated at 180° C. for 30 minutes under microwave irradiation. After reaction finished, the reaction mixture was purified by preparative LC-MS to give (5-methyl-1H-pyrazol-3-yl)-(1-phenyl-isoquinolin-3-yl)-amine (40 mg). LC-MS m/e 301(MH+).+.) 1H NMR(CDCl3): δ 2.23(s, 3H), δ 5.86(s, 1H), δ 7.22(m, 1H), δ 7.40(m, 1H), δ 7.55(m, 5H), δ 7.70(m,4H), δ 7.90(d, 1H).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 100 mg | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | phenylboronic acid | 84 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 145 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 1 ml | O | H2O
product | (5-methyl-1H-pyrazol-3-yl)-(1-phenyl-isoquinolin-3-yl)-amine | 40 mg | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)C1=CC=CC=C1 | C19H16N4
